US07238707B2
2-Cyclopentyl-2-hydroxy-4-methyl-4-phenylpentanal
185 mg of 2-cyclopentyl-4-methyl-4-phenyl-1,2-pentanediol is converted with 438 mg of pyridine-sulfur trioxide complex, 2.5 ml of DMSO and 0.5 ml of triethylamine into 160 mg of aldehyde.

reactant | 2-cyclopentyl-4-methyl-4-phenyl-1,2-pentanediol | 185 mg | C1(CCCC1)C(CO)(CC(C)(C1=CC=CC=C1)C)O | C17H26O2
reactant | DMSO | 2.5 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-Cyclopentyl-2-hydroxy-4-methyl-4-phenylpentanal | C1(CCCC1)C(C=O)(CC(C)(C1=CC=CC=C1)C)O | C17H24O2
